US06924391B2
(3R and 3S)-1-[4-(3-Hydroxypropyl)phenoxy]-3-[4-(tert-butoxycarbonyl)phenoxy]-2-butanone
A solution of (3R and 3S)-1-[4-[3-(tert-butyldiphenylsilyloxy)propyl]phenoxy]-3-[4-(tert-butoxycarbonyl)phenoxy]-2-butanone (2.82 g, 4.32 mmol) in tetrahydrofuran (70 ml) was treated with acetic acid (1.5 ml) followed by 1M tetrabutylammonium fluoride in tetrahydrofuran (10 ml, 10.0 mmol). The mixture was then heated at 70° C. for 3.5 hours. The cooled mixture was then diluted with ethyl acetate, washed with saturated sodium bicarbonate, brine and dried (magnesium sulfate). Evaporation of the solvent and chromatography of the residue on silica gel (elution toluene-ethyl acetate 8:2) gave 1.64 g (91%) of the title material as an oil.

reactant | 1-[4-[3-(tert-butyldiphenylsilyloxy)propyl]phenoxy]-3-[4-(tert-butoxycarbonyl)phenoxy]-2-butanone | 4.32 mmol, 2.82 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCCC1=CC=C(OCC(C(C)OC2=CC=C(C=C2)C(=O)OC(C)(C)C)=O)C=C1 | C40H48O6Si
reactant | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
reactant | tetrabutylammonium fluoride | 1M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10.0 mmol, 10 ml | O1CCCC1 | C4H8O
product | 1-[4-(3-Hydroxypropyl)phenoxy]-3-[4-(tert-butoxycarbonyl)phenoxy]-2-butanone | 1.64 g, 91% | OCCCC1=CC=C(OCC(C(C)OC2=CC=C(C=C2)C(=O)OC(C)(C)C)=O)C=C1 | C24H30O6
